US08202873B2
3′-(3,4-Dichloro-phenyl)-4-(3,5-dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride
Combine 3′-(3,4-dichloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.0590 g, 0.191 mmol) and 3,5-dimethyl-1-phenyl-1H-pyrazole-4-carbaldehyde (0.0592 gm, 0.300 mmol) in DCE (5 mL), stir 10 min, and add sodium triacetoxyborohydride (0.838 gm, 0.400 mmol). Stir at ambient temperature for 44 hr. and purify by SCX chromatography, followed by silica gel chromatography, eluting with 0-50% THF in hexanes to give the free base of the title compound (0.017 gm, 18%). Convert the free base to the hydrochloride salt by addition of 0.17 mL of a 0.2 M solution of ammonium chloride in methanol to give the title compound (0.017 gm). MS (ES+) m/z: 494 [M+H]+.

reactant | 3′-(3,4-dichloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.191 mmol, 0.0590 g | ClC=1C=C(C=CC1Cl)C=1C(=NC=CN1)N1CCNCC1 | C14H14Cl2N4
reactant | 3,5-dimethyl-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.300 mmol, 0.0592 gm | CC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C12H12N2O
reactant | sodium triacetoxyborohydride | 0.400 mmol, 0.838 gm | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3′-(3,4-Dichloro-phenyl)-4-(3,5-dimethyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride | 0.017 gm, 18% | Cl.ClC=1C=C(C=CC1Cl)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1C)C1=CC=CC=C1)C | InChI=1S/C26H26Cl2N6.ClH/c1-18-22(19(2)34(31-18)21-6-4-3-5-7-21)17-32-12-14-33(15-13-32)26-25(29-10-11-30-26)20-8-9-23(27)24(28)16-20;/h3-11,16H,12-15,17H2,1-2H3;1H
